US08470841B2
52b N-{3-[4-(6-Isopropoxypyridin-3-yloxy)cyclohexyl]-1-methylpropyl}acetamide
2-Isopropoxy-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)pyridine (913 mg, 3.47 mmol) and N-[3-(4-hydroxycyclohexyl)-1-methylpropyl]acetamide (740 mg, 3.47 mmol) were reacted in analogy to example 50a. Yield: 95 mg (8%), M+H+: 349.3.

reactant | 2-Isopropoxy-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)pyridine | 3.47 mmol, 913 mg | C(C)(C)OC1=NC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C14H22BNO3
reactant | N-[3-(4-hydroxycyclohexyl)-1-methylpropyl]acetamide | 3.47 mmol, 740 mg | OC1CCC(CC1)CCC(C)NC(C)=O | C12H23NO2
product | N-{3-[4-(6-Isopropoxypyridin-3-yloxy)cyclohexyl]-1-methylpropyl}acetamide | C(C)(C)OC1=CC=C(C=N1)OC1CCC(CC1)CCC(C)NC(C)=O | C20H32N2O3
